US07973026B2
Step 2: methyl 6-cyclohexyl-5-[2-({[(3S)-1-isopropylpyrrolidin-3-yl]amino}methyl)phenyl]-4-(2-methoxy-2-oxoethyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate
Methyl 6-cyclohexyl-5-(2-formylphenyl)-4-(2-methoxy-2-oxoethyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate was dissolved in MeOH (0.05M) and (3S)-1-isopropylpyrrolidin-3-amine dihydrochloride (1.2 eq.; prepared in two steps from commercial (S)-3-(tert.-butyloxycarbonylamino)pyrrolidine by reductive amination with acetone and acidic cleavage of the protecting group) in MeOH was added. The pH was adjusted with sodium triacetoxyborohydride and NEt3 to 5. The mixture was left stirring for 2 h, then NaCNBH3 (2 eq.) was added and stirring was continued for 3 h. All volatiles were evaporated i. vac, the residual material was purified by chromatography (EtOAc+1% NEt3, then EtOAc+1% NEt3+10% MeOH). After evaporation of the solvents a glassy solid was obtained (84%). 1H-NMR (400 MHz, CDCl3, 300 K, δ) 7.62 (s, 1H), 7.55 (dd 1H, J2 7.23, J3 2.85), 7.45 (dt, 1H, J2 7.45, J3 0.87), 7.33 (t, 1H, J 7.46), 7.21 (d, 1H, J 7.45), 4.48 (2d, 2H, J 3.95, J 2.85), 3.90 (s, 3H), 3.67 (s, 3H), 3.53-3.51 (m, 2H), 3.20-3.18 (m, 1H), 2.80-2.76 (m, 1H), 2.57-2.52 (m, 2H), 2.30-2.19 (m, 2H), 2.13-1.10 (m, 14H), 1.05-1.01 (m, 6H); MS (ES+) m/z 552 (M+H)+;

reactant | Methyl 6-cyclohexyl-5-(2-formylphenyl)-4-(2-methoxy-2-oxoethyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate | C1(CCCCC1)C=1C2=C(N(C1C1=C(C=CC=C1)C=O)CC(=O)OC)C=C(S2)C(=O)OC | C24H25NO5S
reactant | (3S)-1-isopropylpyrrolidin-3-amine dihydrochloride | Cl.Cl.C(C)(C)N1C[C@H](CC1)N
reactant | (S)-3-(tert.-butyloxycarbonylamino)pyrrolidine | C(C)(C)(C)OC(=O)N[C@@H]1CNCC1 | C9H18N2O2
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaCNBH3 | 2 eq. | [BH3-]C#N.[Na+]
solvent | MeOH | 0.05M | CO | CH4O
solvent | NEt3 | CCN(CC)CC | C6H15N
solvent | acetone | CC(=O)C | C3H6O
product | methyl 6-cyclohexyl-5-[2-({[(3S)-1-isopropylpyrrolidin-3-yl]amino}methyl)phenyl]-4-(2-methoxy-2-oxoethyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate | C1(CCCCC1)C=1C2=C(N(C1C1=C(C=CC=C1)CN[C@@H]1CN(CC1)C(C)C)CC(=O)OC)C=C(S2)C(=O)OC | C31H41N3O4S
